US09238639B2
A) Methyl 4-((3-methoxy-2-methylphenyl)sulfanyl)-3-oxobutanoate
To a mixture of 3-methoxy-2-methylbenzenethiol (2.52 g) and DMF (dry) (10 mL) were added methyl 4-chloroacetoacetate (2.114 mL) and K2CO3 (2.60 g) at room temperature. The mixture was stirred at room temperature for 2 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (3.65 g).

reactant | 3-methoxy-2-methylbenzenethiol | 2.52 g | COC=1C(=C(C=CC1)S)C | C8H10OS
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | methyl 4-chloroacetoacetate | 2.114 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | K2CO3 | 2.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | Methyl 4-((3-methoxy-2-methylphenyl)sulfanyl)-3-oxobutanoate | 3.65 g | COC=1C(=C(C=CC1)SCC(CC(=O)OC)=O)C | C13H16O4S
